US07192943B2
To a solution of 2-(4,5-diamino-1H-pyrazol-1-yl)ethanol sulfate (2 g) and (2S)-4-[(tert-butoxycarbonyl)amino]-2-hydroxybutanoic acid (1.92 g) in water (8 ml) were added triethylamine (2.32 ml) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.76 g), and the mixture was stirred at room temperature for 3 hours. The whole mixture was extracted with ethyl acetate-tetrahydrofuran (1:1) and the solvent was evaporated under reduced pressure to give a crude product of tert-butyl ((3S)-4-{[5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-3-hydroxy-4-oxobutyl)carbamate. The obtained crude product was used for Preparation 38 without further purification.

reactant | 2-(4,5-diamino-1H-pyrazol-1-yl)ethanol sulfate | 2 g | S(=O)(=O)(O)OCCN1N=CC(=C1N)N | C5H10N4O4S
reactant | (2S)-4-[(tert-butoxycarbonyl)amino]-2-hydroxybutanoic acid | 1.92 g | C(C)(C)(C)OC(=O)NCC[C@@H](C(=O)O)O | C9H17NO5
reactant | triethylamine | 2.32 ml | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.76 g | Cl.CN(CCCN=C=NCC)C
solvent | water | 8 ml | O | H2O
product | tert-butyl ((3S)-4-{[5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-3-hydroxy-4-oxobutyl)carbamate | NC1=C(C=NN1CCO)NC([C@H](CCNC(OC(C)(C)C)=O)O)=O | C14H25N5O5
